US08957205B2
1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid
35 ml of 2N sodium hydroxide aqueous solution was added to a solution of 11.8 g (23.0 mmol) of 1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester in 120 ml of tetrahydrofuran, and the mixture was refluxed under heating for 15 hours. Ether was added to the reaction mixture, and the aqueous layer was separated. Concentrated hydrochloric acid was added to the separated aqueous layer to neutralize it and the precipitated crystal was collected by filtration to obtain 6.60 g (67%) of the title compound.

reactant | sodium hydroxide | 2N, 35 ml | [OH-].[Na+]
reactant | 1-[[[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 23.0 mmol, 11.8 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)C=1N=C(SC1)N1CCN(CC1)C | C29H34N4O3S
reactant | Ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid | 6.60 g, 67% | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)O | C22H28N4O3S
